US07384934B2
(S)-10-[3-(2-Methoxyethyl)piperazin-1-yl]-2-methyl-4H-3-thia-1,4,9-triazabenzo[f]azulene
In a manner such as that described in Example 300, combine 2-methyl-4H-3-thia-1,4,9-triazabenzo[f]azulene-10-ylamine hydrochloride (0.437 g, 1.64 mmol) and (S)-2-(2-methoxyethyl)piperazine (0.474 g, 3.29 mmol) to obtain the title compound: mass spectrum (APCI): m/z=358.0 (M+1).

reactant | 2-methyl-4H-3-thia-1,4,9-triazabenzo[f]azulene-10-ylamine hydrochloride | 1.64 mmol, 0.437 g | Cl.CC1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N
reactant | (S)-2-(2-methoxyethyl)piperazine | 3.29 mmol, 0.474 g | COCC[C@@H]1NCCNC1 | C7H16N2O
product | (S)-10-[3-(2-Methoxyethyl)piperazin-1-yl]-2-methyl-4H-3-thia-1,4,9-triazabenzo[f]azulene | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C)C=CC=C2 | C18H23N5OS
